### PR TITLE
Locking operators in rat.v

### PR DESCRIPTION
**Pull request by CohenCyril**
##### Motivation for this change

Fixes 698

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md` (do not edit former entries)
- ~added corresponding documentation in the headers~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-following,-reviewing-and-playing-with-a-PR#checklist-for-reviewing-a-pr) and make sure there is a milestone.

### CODE REVIEW

**Comment by proux01** [comment]
@CohenCyril CoqEAL should be fixed

**Comment by CohenCyril** [comment]
@pi8027 if you have some time to review this?

**Comment by pi8027** [comment]
Yes, I will do that by the end of this week.

File: mathcomp/algebra/rat.v [hunk 1]
```diff
@@ -72,51 +72,73 @@ Proof. by rewrite /numq /denq; case: x=> [[a b] /= /andP []]. Qed.
...
+rewrite /coprime -(@eqn_pmul2r (gcdn `|n| `|d|)); last first.
+  by rewrite gcdn_gt0 ?absz_gt0 d_neq0 orbT.
+by rewrite muln_gcdl !divnK ?mul1n ?(dvdn_gcdl, dvdn_gcdr) ?gcdn_gt0.
+Qed.
+
+Definition fracq '((n', d')) : rat :=
+  match d', n' with
+  | Posz 0 as d, _ as n | Posz 1 as d, _ as n
+  | _ as d, Posz _ as n | _ as d, _ as n   => Rat (fracq_subproof (n, d))
+  end.
```
Comment (pi8027) [inline mathcomp/algebra/rat.v:102]: It would be nice to have a comment that briefly explains "interlocking". I also wish to have an example showing the necessity of the second case `Posz 1 as d, _ as n`.

**Review by pi8027 — COMMENTED** [review]
Sorry for the delay. I have a minor remark.

File: mathcomp/algebra/rat.v [hunk 2]
```diff
@@ -227,14 +230,21 @@ have [->|d_neq0] := eqVneq d 0; first by rewrite mulr0 !fracq0.
 by rewrite fracq_eq ?mulf_neq0 //= mulrCA mulrA.
 Qed.
 
+(* We "lock" the definition of addq, oppq, mulq and invq, using a match on    *)
+(* the constructor Rat for both arguments, so that it may only be reduced     *)
+(* when appied to explicit rationals. Since fracq is also "locked" in a       *)
```
Comment (proux01) [inline mathcomp/algebra/rat.v:235]:
```suggestion
(* when applied to explicit rationals. Since fracq is also "locked" in a      *)
```

File: mathcomp/algebra/rat.v (hunk 1 above)
Comment (CohenCyril) [reply mathcomp/algebra/rat.v]: I think that was a mistake :)

File: mathcomp/algebra/rat.v [hunk 3]
```diff
@@ -204,11 +230,22 @@ have [->|d_neq0] := eqVneq d 0; first by rewrite mulr0 !fracq0.
...
+(* the constructor Rat for both arguments, so that it may only be reduced     *)
+(* when applied to explicit rationals. Since fracq is also "locked" in a      *)
+(* similar way, fracq will not reduce to a Rat x xP unless it is also applied *)
+(* to "enough" constructors. This preserves the reduction on gound elements   *)
+(* while it suspends it when applied to at least one variable at the leaf of  *)
+(* the arithmetic operation.                                                  *)
 Definition addq_subdef (x y : int * int) := (x.1 * y.2 + y.1 * x.2, x.2 * y.2).
-Definition addq (x y : rat) := nosimpl fracq (addq_subdef (valq x) (valq y)).
+Definition addq '(Rat x xP) '(Rat y yP) := fracq (addq_subdef x y).
+Lemma addq_def x y : addq x y = fracq (addq_subdef (valq x) (valq y)).
```
Comment (pi8027) [inline mathcomp/algebra/rat.v:242]: CHANGELOG entries would be required for this kind of lemmas.

Comment (CohenCyril) [reply mathcomp/algebra/rat.v:242]: It's intended to be "internal", but there is still no good way to tell it to Coq.

**Comment by CohenCyril** [comment]
@vbgl please help, I'm completely clueless about this CI failure...
To reproduce:
```bash
cd $(mktemp -d)
git clone https://github.com/math-comp/multinomials -b nix-toolbox && cd multinomials
nix-build
```

File: mathcomp/algebra/rat.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/algebra/rat.v:242]: Sure.

**Comment by vbgl** [comment]
The multinomials package is broken: the new `configure` script (recently added by Erik) refers to `/usr/bin/env` that is not available in the CI environment.

Below is a possible patch. (You may also set `dontConfigure = true;` to skip the failing configuration phase.)

~~~
diff --git a/.nix/coq-overlays/multinomials/default.nix b/.nix/coq-overlays/multinomials/default.nix
index 1c62b70..64b4945 100644
--- a/.nix/coq-overlays/multinomials/default.nix
+++ b/.nix/coq-overlays/multinomials/default.nix
@@ -33,6 +33,10 @@ with lib; mkCoqDerivation {
 
   useDune2ifVersion = v: versions.isGe "1.5.3" v || v == "dev";
 
+  preConfigure = ''
+    patchShebangs configure
+  '';
+
   propagatedBuildInputs =
     [ mathcomp.ssreflect mathcomp.algebra mathcomp-finmap mathcomp-bigenough ];
 
~~~

**Review by pi8027 — APPROVED** [review]
LGTM except for the CI failure.
